### PR TITLE
[Merged by Bors] - chore(Analysis/SpecialFunctions): deduplicate and golf trig bounds

### PR DESCRIPTION
**Pull request by b-mehta**
Remove the duplication of trig lemmas, introduced in a previous PR.
Golf existing trig bounds.
Add further bounds.
Make the names more consistent throughout.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Bounds.lean [hunk 1]
```diff
@@ -54,81 +55,84 @@ lemma sin_le (hx : 0 ≤ x) : sin x ≤ x := by
...
+    strictConcaveOn_sin_Icc.concaveOn.2 ⟨le_rfl, pi_pos.le⟩
+      ⟨pi_div_two_pos.le, half_le_self pi_pos.le⟩ (sub_nonneg.2 hx') hx
+
+theorem mul_lt_sin {x : ℝ} (hx : 0 < x) (hx' : x < π / 2) : 2 / π * x < sin x := by
+  rw [← inv_div]
+  simpa [-inv_div, mul_inv_cancel_left₀ pi_div_two_pos.ne'] using @lt_sin_mul ((π / 2)⁻¹ * x)
+    (mul_pos (inv_pos.2 pi_div_two_pos) hx) (by rwa [← div_eq_inv_mul, div_lt_one pi_div_two_pos])
+
+/-- In the range `[0, π / 2]`, we have a linear lower bound on `sin`. This inequality forms one half
+of Jordan's inequality, the other half is `Real.sin_lt` -/
```
Comment (YaelDillies) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Bounds.lean:74]:
```suggestion
/-- One half of **Jordan's inequality**.

In the range `[0, π / 2]`, we have a linear lower bound on `sin`. The other half is `Real.sin_lt`. -/
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer merge

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
